US04380507
The compound n-C12H25MgCl was prepared from Mg and n-C12H25Cl by operating according to the modalities described in Example 1(a) for the compound n-C8H17MgCl.

reactant | n-C12H25Cl | C(CCCCCCCCCCC)Cl | C12H25Cl
reactant | n-C8H17MgCl | C(CCCCCCC)[Mg]Cl
product | n-C12H25MgCl | yield of 92.5% | C(CCCCCCCCCCC)[Mg]Cl | InChI=1S/C12H25.ClH.Mg/c1-3-5-7-9-11-12-10-8-6-4-2;;/h1,3-12H2,2H3;1H;/q;;+1/p-1
